US06902857B2
(c) Benzotriazol-Based Ones
(2′-Hydroxyphenyl)benzotriazol, (2′-hydroxy-5′-methylphenyl)benzotriazol, (2′-hydroxy5′-methylphenyl)benzotriazol, (2′-hydrox-3′-tertiarybutyl-5′-methylphenyl)-5-chlorobenzotriazol, and the like.

reactant | (2′-Hydroxyphenyl)benzotriazol | OC1=C(C=CC=C1)C1=CC=CC=2NN=NC21 | C12H9N3O
reactant | (2′-hydroxy-5′-methylphenyl)benzotriazol | OC1=C(C=C(C=C1)C)C1=CC=CC=2NN=NC21 | C13H11N3O
reactant | (2′-hydrox-3′-tertiarybutyl-5′-methylphenyl)-5-chlorobenzotriazol | OC1=C(C=C(C=C1C(C)(C)C)C)C1=C(C=CC=2NN=NC21)Cl | C17H18ClN3O
product | Benzotriazol | N1N=NC2=C1C=CC=C2 | C6H5N3
